US05508411
reacting (R)-2-chloro-cyclohex-2-enylalcohol with trichloroacetonitrile to give (R)-2,2,2-trichloro-1-(2-chloro-cyclohex-2-enyloxy)-ethylideneamine;

reactant | (R)-2-chloro-cyclohex-2-enylalcohol | ClC=1[C@@H](CCCC1)O | C6H9ClO
reactant | trichloroacetonitrile | ClC(C#N)(Cl)Cl | C2Cl3N
product | (R)-2,2,2-trichloro-1-(2-chloro-cyclohex-2-enyloxy)-ethylideneamine | ClC(C(O[C@H]1C(=CCCC1)Cl)=N)(Cl)Cl | C8H9Cl4NO
